US08802688B2
Step 3. benzyl 2-tert-butyl-2,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate
(E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate hydrochloride salt (8.00 g, 19.7 mmol) was dissolved in dichloromethane (100 mL) and treated with sodium bicarbonate (1.70 g, 19.7 mmol). The solution was stirred for 30 minutes and was then filtered and concentrated under reduced pressure to yield (E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate. A 250 mL round bottom flask was charged with dimethylformamide (80 mL) and cooled to 0° C. Phosphorous oxychloride (5.51 mL, 59.1 mmol) was added dropwise over 2 minutes, and the solution was stirred for 30 minutes at 0° C. To this solution was added the (E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate in dimethylformamide (15 mL) and the reaction was heated at 80° C. for 18 hours. The reaction was cooled to room temperature and concentrated under reduced pressure. The resultant oil was dissolved in ethyl acetate (500 mL) and washed with brine (2×150 mL). The aqueous layer was extracted with an additional 100 mL ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The resultant oil was purified by flash column chromatography (10-80% ethyl acetate/heptane) to yield 4.89 g (65%) of the title compound as a pale yellow oil. +ESI (M+H) 380.0; 1H NMR (400 MHz, CDCl3, δ): 7.25-7.36 (m, 5 H), 7.18 (s, 1 H), 6.57 (d, J=10.0 Hz, 1 H), 5.86 (d, J=10.0 Hz, 1 H), 5.12 (s, 2 H), 3.51-3.69 (m, 2 H), 3.36-3.53 (m, 2 H), 2.58 (s, 2 H), 1.59-1.74 (m, 2 H), 1.52-1.58 (m, 9 H), 1.41-1.53 (m, 2 H).

reactant | Phosphorous oxychloride | 59.1 mmol, 5.51 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate | C(C)(C)(C)N\N=C/1\C=CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)CC1 | C22H31N3O2
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | benzyl 2-tert-butyl-2,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 4.89 g, 65% | C(C)(C)(C)N1N=C2C=CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)CC2=C1 | C23H29N3O2
